US04057416
Into 2.0 liters of ethanol, previously saturated with ammonia, was added 378 g of 2-cyano-3,3-bis(ethylthio)propenenitrile. The mildly exothermic reaction warmed the mixture to 38°. The mixture was stirred at ambient temperature for 0.5 hour, then heated under reflux (ca 55°) for 1.0 hour. The mixture was concentrated by distillation of about one liter of solvent. To the mixture was added 1.5 liters of ice-water and the mixture was cooled in an ice-bath. The yellow solid was isolated and dried to give 223 g of 3-amino-2-cyano-3-(ethylthio)propenenitrile, m.p. 180°-182°. The nmr spectrum was consistent with the assigned structure.

reactant | ammonia | N | H3N
reactant | 2-cyano-3,3-bis(ethylthio)propenenitrile | 378 g | C(#N)C(C#N)=C(SCC)SCC | C8H10N2S2
solvent | ethanol | 2.0 liters | C(C)O | C2H6O
product | 3-amino-2-cyano-3-(ethylthio)propenenitrile | 223 g | NC(=C(C#N)C#N)SCC | C6H7N3S
